US04920139
(A) 2-(4-chlorophenyl)pentanenitrile
In a four neck one liter flask fitted with a reflux condenser, mechanical stirrer and addition funnel was placed 227.4 gm (1.5 mol) of 4-chlorophenylacetonitrile, 235.6 gm (3.0 mol) of 1-chloropropane and 4.8 gm (0.15 mol) of tetrabutylammonium bromide. 300 gm (3.75 mol) of 50% (w/w) NaOH was added dropwise over 30 minutes. The reaction mixture quickly exothermed to 50° C. and the reaction flask was placed in a cold water bath until the reaction mixture cooled to 35° C. Thereafter, the reaction mixture was heated for an additional 4 hours at 50° C., then the reaction was quenched by adding 1500 ml of water. The mixture was extracted twice with ether and the organic phase was washed with water and then with 200 ml of 10% (w/w) hydrochloric acid. The ether was dried, filtered, concentrated and distilled. The distillate was collected, at 105° C. at 0.5 mm, and two main fractions of 156.3 gm (88% purity) and 88 gm (60% purity) were obtained. The higher purity material was used in the bromomethylation of step B.

reactant | 4-chlorophenylacetonitrile | 1.5 mol, 227.4 gm | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1-chloropropane | 3.0 mol, 235.6 gm | ClCCC | C3H7Cl
reactant | NaOH | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.15 mol, 4.8 gm | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-chlorophenyl)pentanenitrile | ClC1=CC=C(C=C1)C(C#N)CCC | C11H12ClN
